US04032525
1-[2-chloro-8-fluoro-10,11-dihydro-dibenz[b,f]oxepin-10-yl]-piperazine is reacted with 3-(2-chloro-ethyl)-2-oxazolidinone in the manner described in Example 1, and there is obtained 3-[2-{4-[2-chloro-8-fluoro-10,11-dihydro-dibenz[b,f]oxepin-10-yl]-1-piperazinyl}-ethyl]-2-oxazolidinone as an oil. The maleate, prepared in acetone, melts at 180°-182° C.

reactant | 1-[2-chloro-8-fluoro-10,11-dihydro-dibenz[b,f]oxepin-10-yl]-piperazine | ClC1=CC2=C(OC3=C(C(C2)N2CCNCC2)C=C(C=C3)F)C=C1 | C18H18ClFN2O
reactant | 3-(2-chloro-ethyl)-2-oxazolidinone | ClCCN1C(OCC1)=O | C5H8ClNO2
product | 3-[2-{4-[2-chloro-8-fluoro-10,11-dihydro-dibenz[b,f]oxepin-10-yl]-1-piperazinyl}-ethyl]-2-oxazolidinone | ClC1=CC2=C(OC3=C(C(C2)N2CCN(CC2)CCN2C(OCC2)=O)C=C(C=C3)F)C=C1 | C23H25ClFN3O3
